US04349482
By reacting 3-phenoxy-1-chloro-2-propanol with 2-chloroethyl chloroformate according to conventional chloroformate ester reaction procedures, 2-chloroethyl 3-phenoxy-1-chloro-2-propyl carbonate is obtained. When the latter compound is heated in the presence of a phosphonium or ammonium salt catalyst as shown in the foregoing examples, phenyl glycidyl ether is produced as the principal epoxide product.

reactant | 3-phenoxy-1-chloro-2-propanol | O(C1=CC=CC=C1)CC(CCl)O | C9H11ClO2
reactant | 2-chloroethyl chloroformate | ClC(=O)OCCCl | C3H4Cl2O2
product | 2-chloroethyl 3-phenoxy-1-chloro-2-propyl carbonate | C(OCCCl)(OC(CCl)COC1=CC=CC=C1)=O | C12H14Cl2O4
